US09340544B2
(4-Chloro-phenyl)-[9-methyl-2-(3,4,5-trimethyl-pyrazol-1-yl)-9H-purin-6-yl]-amine (Compound 9.15)
Was prepared according to Example 9 from (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine and 3-methyl-2,4-pentanedione.

reactant | (4-chloro-phenyl)-(2-hydrazino-9-methyl-9H-purin-6-yl)-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)NN)C | C12H12ClN7
reactant | 3-methyl-2,4-pentanedione | CC(C(C)=O)C(C)=O | C6H10O2
product | (4-Chloro-phenyl)-[9-methyl-2-(3,4,5-trimethyl-pyrazol-1-yl)-9H-purin-6-yl]-amine | ClC1=CC=C(C=C1)NC1=C2N=CN(C2=NC(=N1)N1N=C(C(=C1C)C)C)C | C18H18ClN7
